US05753652
a) N-(Isobutoxycarbonyl)-(L)-valine
11.2 ml (85.3 mmol) of isobutyl chloroformate are added to a solution of 10 g (85.3 mmol) of (L)-valine in 100 ml of 2N sodium hydroxide solution and the solution is stirred at RT for 18 h. The reaction solution is washed with methylene chloride, acidified with 4N hydrochloric acid and extracted with methylene chloride. The organic extracts are washed with brine and filtered through cotton wadding to yield the title compound in the form of a colourless resin after concentration by evaporation. 1H-NMR (200 MHz, CD3OD): 0.95 (m, 12H), 1.9 (m, 1H), 2.15 (m, 1H), 3.85 (d, J=7 Hz, 2H), 4.05 (d broad, 1H).

reactant | isobutyl chloroformate | 85.3 mmol, 11.2 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (L)-valine | 85.3 mmol, 10 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
solvent | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
product | N-(Isobutoxycarbonyl)-(L)-valine | C(C(C)C)OC(=O)N[C@@H](C(C)C)C(=O)O | C10H19NO4
